US06194461B1
1) Synthesis of 2-t-butoxycarbonylamino-2-methyl-1-propanol
A solution of 2-amino-2-methyl-1-propanol (921.2 mg, 10.33 mmol) in dichloromethane (5 ml) was cooled to 0° C. To the mixture was added a solution of di-t-butyl carbonate (Boc2O)(2.1045 g, 9.64 mmol) in dichloromethane (5 ml) dropwise for 30 minutes. After addition, the mixture was warmed to room temperature and stirred for 5 hours. The mixture was added to sat. NaHCO3 aqueous solution and extracted three times with ethyl acetate. The extract was dried over MgSO4 and concentrated to give the crude title compound (1.7204 g: 88%).

reactant | 2-amino-2-methyl-1-propanol | 10.33 mmol, 921.2 mg | NC(CO)(C)C | C4H11NO
reactant | di-t-butyl carbonate | 9.64 mmol, 2.1045 g | C(OC(C)(C)C)(OC(C)(C)C)=O | C9H18O3
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
product | 2-t-butoxycarbonylamino-2-methyl-1-propanol | 1.7204 g, 88% | C(C)(C)(C)OC(=O)NC(CO)(C)C | C9H19NO3
